US08440666B2
2-[5-Chloro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-[(3-isopropyloxypyridin-4-yl)methyl]acetamide
2-[5-Chloro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-[(3-hydroxypyridin-4-yl)methyl]acetamide (26.6 mg, 0.06 mmol) in tetrahydrofuran (1 mL) was mixed with 2-propanol (10.9 mg, 0.18 mmol), triphenylphosphine (23.6 mg, 0.09 mmol) and diethyl azodicarboxylate in toluene (2.2 M, 0.04 mL, 0.09 mmol) at 0° C. and stirred at room temperature for 4 hours. After completion of the reaction, the reaction solution was evaporated under reduced pressure, and the resulting residue was purified by silica gel chromatography (ethyl acetate/methanol 20/1) to give the desired product (4.48 mg, 15%).

reactant | 2-[5-Chloro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-[(3-hydroxypyridin-4-yl)methyl]acetamide | 0.06 mmol, 26.6 mg | ClC1=C(C=NN(C1=O)CC(=O)NCC1=C(C=NC=C1)O)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C22H28ClN5O3
reactant | 2-propanol | 0.18 mmol, 10.9 mg | CC(C)O | C3H8O
reactant | triphenylphosphine | 0.09 mmol, 23.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | toluene | 0.09 mmol, 2.2 M, 0.04 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 2-[5-Chloro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-[(3-isopropyloxypyridin-4-yl)methyl]acetamide | 4.48 mg, 15% | ClC1=C(C=NN(C1=O)CC(=O)NCC1=C(C=NC=C1)OC(C)C)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C25H34ClN5O3
